US04405530
A. 2-Fluoromethyl-2-amino-4-methyl-4-pentenenitrile
In a 10 l reactor, filled with nitrogen, about 100 ml of a solution of methallyl chloride (453 g, 490 ml, 5.0 mol) in dry tetrahydrofuran (THF) (4 l) is added to a stirred suspension of magnesium turnings (486 g, 20 mol) in tetrahydrofuran (THF) (1 l), previously activated by 2 ml of methyl iodide. The mixture is heated until Grignard formation starts. The reaction mixture is cooled with ice, and methallyl chloride solution is added at such a rate that the internal temperature does not exceed 50° C. After the reaction mixture is stirred overnight at room temperature, the Grignard reagent is separated from the excess of magnesium, transferred to a 20 l reactor, and cooled to -40° C. A solution of fluoroacetonitrile (276 g, 253 ml, 4.68 mol) in THF (1 l) is added slowly (within about 15 minutes), maintaining the internal temperature between -40° and -35° C. Stirring is continued for 30 minutes, at -40° C. The mixture is cooled to -60° C., and a water/THF mixture (300 ml, 1:1) is slowly added. A solution of ammonium chloride (795 g) and sodium cyanide (490 g) in water (7.5 l), previously cooled with ice, is added rapidly and the dry ice is removed. The mixture is stirred for 1 hour at an internal temperature between 0° C. and room temperature. The mixture is saturated with sodium chloride (about 2 kg), the organic layer is separated, and the aqueous phase is extracted twice with ether (2×3 l). The ether phase is dried (Na2SO4) and evaporated to give a dark oil (687 g) which is dissolved in ether (5 l) and extracted carefully with 10% hydrochloric acid (4×650 ml). The combined aqueous phases are cooled with ice and made basic with concentrated ammonia. The oil which separates is dissolved in diethyl ether (2.5 l), and the aqueous layer is extracted with diethyl ether (2×2 l). The combined ether extracts are dried (Na2SO4) and evaporated to afford the crude title compound as a dark oil (488 g).

reactant | methallyl chloride | 5.0 mol, 490 ml, 453 g | C(C(C)=C)Cl | C4H7Cl
reactant | magnesium | 20 mol, 486 g | [Mg] | Mg
reactant | methyl iodide | 2 ml | CI | CH3I
reactant | fluoroacetonitrile | 4.68 mol, 253 ml, 276 g | FCC#N | C2H2FN
reactant | ammonium chloride | 795 g | [Cl-].[NH4+]
reactant | sodium cyanide | 490 g | [C-]#N.[Na+]
solvent | tetrahydrofuran | 4 l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
solvent | THF | 1 l | O1CCCC1 | C4H8O
solvent | water | 7.5 l | O | H2O
solvent | water THF | 300 ml | O.O1CCCC1
product | 2-Fluoromethyl-2-amino-4-methyl-4-pentenenitrile | 687 g | FCC(C#N)(CC(=C)C)N | C7H11FN2
